US04045475
3.13 g (0.01157 mol) of 3(R),7(R),10-trimethyl-dodecanoic acid ethyl ester in dry ether (35 ml) was added dropwise to a mixture of lithium aluminum hydride (3.0 g) in 150 ml of dry diethyl ether. The mixture was refluxed with stirring for 21/2 hr. The flask was cooled in an ice-bath and the excess of lithium aluminum hydride was destroyed by carefully adding water, followed by 450 ml of 2 N H2SO4. The aqueous phase was extracted with diethyl ether (3 × 150 ml). The ether extract was washed with water (3 × 50 ml), saturated aqueous NaHCO3 (3 × 50 ml), water (3 × 50ml) and dried over anhydrous magnesium sulfate. Evaporation of ether to dryness at reduced pressure yielded 2.70 g of crude material which on distillation (Kugelrohr oven, 104°-110°/0.10 mmHg) afforded 2.572 g (97.4%) of 3(R),7(R),11-trimethyl-dodecanol as a colorless oil.

reactant | 3(R),7(R),10-trimethyl-dodecanoic acid ethyl ester | 0.01157 mol, 3.13 g | C(C)OC(C[C@@H](CCC[C@H](CCC(CC)C)C)C)=O | C17H34O2
reactant | lithium aluminum hydride | 3.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ether | 35 ml | CCOCC | C4H10O
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 3(R),7(R),11-trimethyl-dodecanol | 2.572 g, 97.4% | C[C@@H](CCO)CCC[C@@H](CCCC(C)C)C | C15H32O
